US06437132B2
Production of 7-(2,6-Difluorobenzyl)-4,7-dihydro-5-isobutyryl-3-methyl-4-oxo-2-phenylthieno[2,3-b]pyridine
4-Hydroxy-5-isobutyryl-3-methyl-2-phenylthieno[2,3-b]pyridine (35 g), potassium carbonate (18.6 g) and N,N-dimethylformamide (280 ml) were mixed and 2,6-difluorobenzyl bromide (27.9 g) was added and the reaction mixture was stirred at 40 to 50° C. for 2 hours. The reaction mixture was treated dropwise with water (560 ml), and the mixture was stirred for 1 hour and then cooled on ice, and then stirred further for 1 hour. The crude crystal was recovered by a filtration, washed with water (about 1000 ml), dried in air, suspended in a 1:1 solvent mixture (250 ml) of ethyl acetate and diisopropylether, and then the mixture was stirred at room temperature for 1 hour, and then stirred with cooling on ice for 1 hour. The crystal obtained by a filtration was washed with the same solvent mixture (180 ml), dried in vacuo at 40° C. for 5 hours to obtain the title compound (46.53 g, 94.6%).

reactant | 4-Hydroxy-5-isobutyryl-3-methyl-2-phenylthieno[2,3-b]pyridine | 35 g | OC1=C2C(=NC=C1C(C(C)C)=O)SC(=C2C)C2=CC=CC=C2 | C18H17NO2S
reactant | potassium carbonate | 18.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 280 ml | CN(C=O)C | C3H7NO
reactant | 2,6-difluorobenzyl bromide | 27.9 g | FC1=C(CBr)C(=CC=C1)F | C7H5BrF2
solvent | water | 560 ml | O | H2O
product | 7-(2,6-Difluorobenzyl)-4,7-dihydro-5-isobutyryl-3-methyl-4-oxo-2-phenylthieno[2,3-b]pyridine | 46.53 g, 94.6% | FC1=C(CN2C3=C(C(C(=C2)C(C(C)C)=O)=O)C(=C(S3)C3=CC=CC=C3)C)C(=CC=C1)F | C25H21F2NO2S
